US08580812B2
BOP (680 mg, 1.5 mmol) is added to a mixture of 4-[(adamantan-1-ylmethyl)carbamoyl]-pyrazolo[1,5-a]pyridine-2-carboxylic acid (417 mg, 1.18 mmol), tert-butyl (R)-pyrrolidin-3-ylcarbamate (242 mg, 1.30 mmol), iPr2Net (620 μL, 3.6 mmol) and DMF (12 mL) under N2. The reaction vessel is sealed and the solution is left to stir for 20 h. EtOAc (50 mL) is added. The solution is washed with H2O (2×50 mL) and brine (50 mL). The organics are dried over Na2SO4, filtered, and concentrated. Purification by flash column chromatography (2% MeOH in CH2Cl2) affords (R)-(1-{4-[(adamantan-1-ylmethyl)carbamoyl]pyrazolo[1,5-a]-pyridine-2-carbonyl}pyrrolidin-3-yl)carbamic acid tert-butyl ester as a tan solid. MeOH (6.8 mL) and 4 M HCl in dioxane (1.7 mL) are added. After 20 h, the volatiles are removed under reduced pressure to afford a light tan solid. 15% Aqueous K2CO3 (50 mL) is added. The solution is extracted with EtOAc (5×50 mL). The combined organics are dried over Na2SO4, filtered, and concentrated. Purification by flash column chromatography (1% NH4OH in 9:1 CH2Cl2:MeOH) affords the title compound as a tan foam. 1H NMR (300 MHz, CDCl3) δ: 8.48 (ddd, 1H), 7.62 (dd, 1H), 7.22 (dd, 1H), 6.87 (t, 1H), 6.50 (bt, 1H), 3.42-4.20 (m, 5H), 3.20 (d, 2H), 2.14 (septet, 1H), 1.96-2.04 (m, 3H), 1.55-1.88 (m, 12H). LC-MS m/z (M+H+): 422.3; RT=1.2 min.

reactant | BOP | 1.5 mmol, 680 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 4-[(adamantan-1-ylmethyl)carbamoyl]-pyrazolo[1,5-a]pyridine-2-carboxylic acid | 1.18 mmol, 417 mg | C12(CC3CC(CC(C1)C3)C2)CNC(=O)C=2C=3N(C=CC2)N=C(C3)C(=O)O | C20H23N3O3
reactant | tert-butyl (R)-pyrrolidin-3-ylcarbamate | 1.30 mmol, 242 mg | N1C[C@@H](CC1)NC(OC(C)(C)C)=O | C9H18N2O2
reactant | DMF | 12 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | (R)-(1-{4-[(adamantan-1-ylmethyl)carbamoyl]pyrazolo[1,5-a]-pyridine-2-carbonyl}pyrrolidin-3-yl)carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1CN(CC1)C(=O)C1=NN2C(C(=CC=C2)C(NCC23CC4CC(CC(C2)C4)C3)=O)=C1)=O | C29H39N5O4
